US06649768B1
Synthesis of 3-(Dibromoacetyl)pyridine Hydrobromide
3-(3-Pyridyl)-3-oxopropionic acid ethyl ester (1.95 g, 10.2 mmol) was added dropwise to 47% aqueous HBr solution (3.86 g) under ice-cooling. Bromine (2.2 g, 1.2 equivalent amount relative to 3-(3-pyridyl)-3-oxopropionic acid ethyl ester) was added dropwise at not more than 10° C. After stirring for 30 min, iced-water bath was removed and water (2 ml) and 47% aqueous HBr solution (4 ml) were added. The mixture was stirred at room temperature for 30 min. Furthermore, bromine (2.2 g, 1.2 equivalent amount relative to 3-(3-pyridyl)-3-oxopropionic acid ethyl ester) was added dropwise and the mixture was stirred at 65-70° C. After cooling to room temperature, the reaction mixture was filtrated to give 3.73 g of the titled compound (yield 95.2%).

reactant | 3-(3-Pyridyl)-3-oxopropionic acid ethyl ester | 10.2 mmol, 1.95 g | C(C)OC(CC(=O)C=1C=NC=CC1)=O | C10H11NO3
reactant | HBr | 3.86 g | Br | BrH
reactant | Bromine | 2.2 g, 1.2 equivalent | BrBr | Br2
reactant | bromine | 2.2 g, 1.2 equivalent | BrBr | Br2
product | 3-(Dibromoacetyl)pyridine Hydrobromide | 3.73 g, yield 95.2% | Br.BrC(C(=O)C=1C=NC=CC1)Br | InChI=1S/C7H5Br2NO.BrH/c8-7(9)6(11)5-2-1-3-10-4-5;/h1-4,7H;1H
